US05965745
To a solution of 3-(2-methoxy-4-methoxycarbonyl-benzyl)-1H-indole-5-carboxylic acid (1.7 grams, 5.00 mmol) in methylene chloride (50 mL), was added 4-dimethylaminopyridine (0.67 grams, 5.50 mmol), 1,2-dichloroethane (1.06 grams, 5.50 mmol), triethylamine (0.73 mL, 5.25 mmol) and 4,4,4-trifluoro-2-methylbutylamine hydrochloride (0.93 grams, 5.25 mmol). The resulting solution was stirred 12 hours, at room temperature, then diluted with methylene chloride. The solution was washed with 1 M hydrochloric acid (aq), then the organics were dried over magnesium sulfate. Concentration in vacuo followed by trituration of the crude product in a 2:1 ratio of ether:hexanes gave 3-methoxy-4-[5-(4,4,4-trifluoro-2-methyl-butylcarbamoyl)-1H-indol-3-ylmethyl]-benzoic acid methylester (1.88 grams, 82% yield).

reactant | 3-(2-methoxy-4-methoxycarbonyl-benzyl)-1H-indole-5-carboxylic acid | 5.00 mmol, 1.7 grams | COC1=C(CC2=CNC3=CC=C(C=C23)C(=O)O)C=CC(=C1)C(=O)OC | C19H17NO5
reactant | 1,2-dichloroethane | 5.50 mmol, 1.06 grams | ClCCCl | C2H4Cl2
reactant | triethylamine | 5.25 mmol, 0.73 mL | C(C)N(CC)CC | C6H15N
reactant | 4,4,4-trifluoro-2-methylbutylamine hydrochloride | 5.25 mmol, 0.93 grams | Cl.FC(CC(CN)C)(F)F
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5.50 mmol, 0.67 grams | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-methoxy-4-[5-(4,4,4-trifluoro-2-methyl-butylcarbamoyl)-1H-indol-3-ylmethyl]-benzoic acid methylester | 1.88 grams, 82% yield | COC(C1=CC(=C(C=C1)CC1=CNC2=CC=C(C=C12)C(NCC(CC(F)(F)F)C)=O)OC)=O | C24H25F3N2O4
